US04958026
In the presence of 1.0 g of palladiumcarbon, 870 mg of N-benzyl-N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine, hydrochloride, is hydrogenated in 50 ml of methanol. The product is recrystallized from ethanol/diethyl ether, thus obtaining 565 mg of N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine, hydrochloride, mp 257°-260° C.

reactant | N-benzyl-N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine, hydrochloride | 870 mg | Cl.C(C1=CC=CC=C1)NCCC1=C2C=NNC2=C(C=C1)O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladiumcarbon | 1.0 g | [C].[Pd]
product | N-[2-(7-hydroxy-1H-indazol-4-yl)ethyl]amine, hydrochloride | 565 mg | Cl.OC=1C=CC(=C2C=NNC12)CCN | InChI=1S/C9H11N3O.ClH/c10-4-3-6-1-2-8(13)9-7(6)5-11-12-9;/h1-2,5,13H,3-4,10H2,(H,11,12);1H
